Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Demerol / Dicloxacillin
 
Attending: ___.
 
Chief Complaint:
Vertigo

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ current smoker with past medical history 
significant for depression, and anxiety who presents with acute 
onset vertigo, nausea, vomiting at around 3:00 this morning. She 
was in her usual state of health until 3 AM this morning when 
she woke up to go to the bathroom, when she arrived she found 
that she had a sensation of the room spinning. This feeling has 
persisted since that time and is associated with nausea and 
emesis.  She said she had trouble walking,  needing to hold onto 
things and even had a fall.  Denies being repaired toward any 
particular side.  Denies any associated focal neurological 
symptoms such as dysarthria diplopia focal weakness 
paresthesias. No headache.  This never happened to her before. 
Symptoms have been constant since 3 AM.  Aggravated by movement, 
and relieved by lying still in bed. She denies any tinnitus, ear 
fullness.  She does think she comes down with something her 
grandchildren that she cares for are sick. 

Reportedly had some improvement with the Epley in the ED, but 
only short lasting. CTA head and neck with hypoplastic right 
vert but otherwise patent. Received Ativan and mecilizne in ED 
w/o improvement.

10 point review of systems reviewed, as in HPI
 
Past Medical History:
BREAST BIOPSY                                                   
SHOULDER PAIN                                                   
TOBACCO ABUSE                                                   
VITAMIN D DEFICIENCY                                            
ANXIETY WITH PANIC ATTACKS                                      
DEPRESSION                                                      
HOMELESS                                                        
H/O PPD POSITIVE                                                
 
Social History:
___
Family History:
No known family history of stroke
 
Physical Exam:
ADMISSION EXAM

- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Pt was able to name both high and low frequency
objects.  Speech was not dysarthric. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI with left beating nystagmus in primary gaze 
and
all directions of gaze
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: No intention tremor. Dysmetria on FNF on left
hand.

-Gait: Unable to even stand on her own, very unsteady.
*unable to perform Romberg, unterberger to unsteady
Difficult to assess ___ and HIT given she has nystagmus
in all directions of gaze
============================

DISCHARGE EXAM
VSS. NSR. Awake & alert. ___ -- intact. PERRL. EOMI.
+ beats of nystagmus on L gaze (better). CN: II-XII intact,
otherwise. Normal strength. FNF/RAM/H-S -- intact. Stance is
normal. She walked for few steps; better than yesterday but
hesitant.

 
Pertinent Results:
BLOOD
___ 10:08AM BLOOD WBC-11.0* RBC-5.97* Hgb-16.0* Hct-48.4* 
MCV-81* MCH-26.8 MCHC-33.1 RDW-13.7 RDWSD-39.7 Plt ___
___ 10:08AM BLOOD Neuts-89.3* Lymphs-8.7* Monos-1.4* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-9.82* AbsLymp-0.95* 
AbsMono-0.15* AbsEos-0.01* AbsBaso-0.01
___ 10:08AM BLOOD Plt ___
___ 10:08AM BLOOD Glucose-115* UreaN-10 Creat-0.7 Na-140 
K-5.0 Cl-101 HCO3-24 AnGap-15
___ 10:08AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:08AM BLOOD Lactate-2.1*

URINE
___ 08:12PM URINE Color-Straw Appear-Clear Sp ___
___ 08:12PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-70* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:12PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-1
___ 08:12PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

CT head: No intracranial hemorrhage or acute intracranial 
process. 
  
CTA: Patent anterior/posterior circulations, circle of ___, 
and major tributaries. No evidence of vertebral artery aneurysm 
or dissection. Retroesophageal origin of the right subclavian 
artery noted incidentally. 

MRI BRAIN
No evidence of intracranial hemorrhage, edema, mass or 
infarction. The major vessels of the posterior circulation 
appears intact on the T2 and T1 postcontrast imaging (but please 
note this is not a dedicated angiographic study). Partial 
opacification of the mastoid air cells is nonspecific. 

LUMBAR
Normal lumbar spine x-ray examination.

 
Brief Hospital Course:
Mrs. ___ is a ___ current smoker with past medical 
history significant for depression, and anxiety presenting with 
acute onset vertigo, nausea and vomiting in the setting of URI. 
Neurological exam on admission notable for left beating 
nystagmus in all directions of gaze but worsened towards the LT 
gaze. Gait unsteady and limited by her dizziness but falls 
towards RT side. NCHCT and CTA H/N unremarkable. MRI with no 
evidence of acute stroke. Etiology of her symptoms likely 
vestibular neuritis given recent URI. She was admitted for 
symptomatic management with IVF and ___ consult who recommended 
discharge home.  

Transitional Issues: 
# PCP follow up within one week from discharge
# Sustained fall in bathroom for which lumbar spine x-ray  
performed and normal.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 7.5 mg PO QHS 
2. Acetaminophen 1000 mg PO Q8H 
3. Vitamin D ___ UNIT PO DAILY 
4. Abreva (docosanol) 10 % topical QID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Abreva (docosanol) 10 % topical QID  
3.  Acetaminophen 1000 mg PO Q8H  
4.  Mirtazapine 7.5 mg PO QHS  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vestibular neuritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to the hospital with symptoms of severe 
dizziness in the setting of an inner ear problem. This is likely 
due to your current viral infection. We have imaged your brain 
and vessels without evidence of acute stroke or bleed. We have 
managed your symptoms with IV fluids and anti nausea medication. 
Physical therapy has evaluated ___ and recommended ___ be 
discharged home. We have made no changes to your medications. 
___ will need follow up with your primary care doctor within one 
week from discharge. 

Sincerely, 

Your ___ Neurology Team 
 
Followup Instructions:
___